US06387911B1
2-Methyl-2-trifluroacetamidopropanethiol
Trifluoroacetic anhydride (0.50 mL, 3.53 mmol) was added dropwise to a stirred mixture of 2-amino-2-methylpropanethiol hydrochloride (500 mg, 3.53 mmol) and triethylamine (0.98 mL, 7.06 mmol) in methylene chloride (25 mL) at 0° C. and the resulting mixture was warmed to room temperature. After 16 h the reaction was washed with 10% sodium hydrogen carbonate solution and brine, dried (Na2SO4) and evaporated in vacuo to give the title compound as a colorless oil: 1H NMR (CDCl3) δ1.45 (s, 6H), 2.92 (d, J=9.2 Hz, 2H), 6.23 (br s, 1H).

reactant | Trifluoroacetic anhydride | 3.53 mmol, 0.50 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-amino-2-methylpropanethiol hydrochloride | 3.53 mmol, 500 mg | Cl.NC(CS)(C)C
reactant | triethylamine | 7.06 mmol, 0.98 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-Methyl-2-trifluroacetamidopropanethiol | CC(CS)(C)NC(C(F)(F)F)=O | C6H10F3NOS
